US07799915B2
Step 2A: Preparation of N-[4-(morpholin-4-ylsulfonyl)phenyl]guanidine
A mixture of 4-[(4-fluorophenyl)sulfonyl]morpholine (0.25 g, 1 mmol), cesium carbonate (1.30 g, 4 mmol), and guanidine carbonate (1.08 g, 6 mmol) in 2 ml of 1-methyl-2-pyrrolidinone (NMP) is stirred at 85 to 90° C. for 24 hrs. It is then cooled to room temperature and diluted with ether. The resulting suspension is filtered, and the precipitate extracted with tetrahydrofuran (THF) to yield, after evaporation of solvent, 0.12 g of a yellow solid; mp 102-105° C.; MS (ESI) m/z 285.1 (M+H); HRMS: calcd for C11H16N4O3S, 284.0943; found (ESI_FT), 285.1011 (M+H).

reactant | 4-[(4-fluorophenyl)sulfonyl]morpholine | 1 mmol, 0.25 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12FNO3S
reactant | cesium carbonate | 4 mmol, 1.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | guanidine carbonate | 6 mmol, 1.08 g | C(O)(O)=O.NC(=N)N
solvent | 1-methyl-2-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | ether | CCOCC | C4H10O
product | N-[4-(morpholin-4-ylsulfonyl)phenyl]guanidine | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)NC(=N)N | C11H16N4O3S
